US07084127B2
In yet another route the 5′-substituent was introduced prior to C2-substitution to circumvent all problems met in the previous routes. The method of Robins20 yielded 5′-deoxy-2-iodo-5′-chloroadenosine from 2-iodoadenosine (1). However, besides the 5′-hydroxyl group, also the 2-iodo group of 1 was replaced by chlorine to some extent, and a mixture of 5′-deoxy-2-iodo-5′-chloroadenosine with 2,5′-dichloro-5′-deoxyadenosine was obtained. Separation of the two products by column chromatography proved impossible. Thus, it was necessary to go further back in the synthesis route, since pure 2,5′-dichloro-5′-deoxyadenosine, obtained by chlorination of 2-chloroadenosine, failed to react with ethanethiol under different conditions (either with KOtBu in MeOH at different temperatures that all regained starting material, or in 2 M NaOH at elevated temperatures yielding the 2,5′-diethylthio substituted derivatives). Finally, in Scheme 1 the successful synthesis of the desired compounds is depicted. The 5′-substituents were introduced at guanosine, which is also the precursor of 2-iodoadenosine (1). Although more laborious, this route starts with the introduction of the 5′-alkylthio substituents at guanosine to circumvent all described problems. Chlorination20 of guanosine gave 5′-chloro-5′-deoxy-guanosine (16) in 93% yield. Compound 16 was reacted with the appropriate thiol in 2 M NaOH1,5 and the 2′- and 3′-hydroxyl groups of compounds 17–20 were subsequently protected to yield the 2′,3′-O-acetyl-5′-(alkylthio)-substituted derivatives 21–24. Several laboratories have described chlorination on the 6-position of purine nucleosides with phosphoryl chloride (POCl3).18,21 To prevent decomposition of the starting materials, the as chemicals used were either properly dried or freshly distilled, and compounds 25–28 were obtained in reasonable to good yields (40%–74%). Subsequently, the 2-amino group of compounds 25–28 was replaced by iodine. The method used26 was a variation of the originally diazotization-iodine substitution procedure.22 With this efficient method 29–32 were obtained in good yields (71–82%). Stirring 29–32 in ethanol freshly saturated with NH3 readily removed the protecting groups and slowly aminated the 6-position to give the intermediates 33–36. NMR showed that amination at the 6-position needed stirring at room temperature for at least two days. Subsequent introduction of the C2-substituents was done as described above,7,8 and compounds 37–40 and 45–48 were obtained in good yields.

reactant | chlorine | ClCl | Cl2
reactant | 5′-deoxy-2-iodo-5′-chloroadenosine | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CCl)O3)C2N1)N | C10H11ClIN5O3
reactant | 2,5′-dichloro-5′-deoxyadenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CCl)O3)C2N1)N | C10H11Cl2N5O3
product | 2-chloroadenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
